US05420368
A 100 g mixture containing 59.0% (CF3)2CHCF2OCH3 (ether A), 20% (CF3)2C=CFOCH3 (ether B), 15.9% toluene and 150 mL water was heated in a Hastelloy™ nickel alloy tube for 3 hours at 135° C. and 6 hours at 200° C. The volatiles were bubbled through a solution of aqueous NaOH and a CaSO4 drying column, and condensed in a dry ice cooled trap to give 12.9 g HFC-236fa identified by its infrared spectrum. The liquid contents of the tube contained two layers. The upper layer, 14.9 g, was shown by 1H and 19F NMR spectroscopy to contain 16.5 wt. percent HFC-236fa and toluene. The combined HFC-236fa from the volatiles and the toluene corresponded to a yield of 15.4 g, 29.0% based on the starting ethers.

reactant | (CF3)2CHCF2OCH3 | C(C(F)(F)F)(C(F)(F)F)C(F)(F)OC | C5H4F8O
reactant | ether | CCOCC | C4H10O
reactant | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | nickel | [Ni] | Ni
solvent | water | 150 mL | O | H2O
product | HFC-236fa | 12.9 g | C(C(F)(F)F)C(F)(F)F | C3H2F6
